US07696223B2
a) 1,2-Bis-(4-fluoro-phenyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of 2-(4-fluoro-phenyl)-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester from 3-bromo-1,2-bis-(4-fluoro-phenyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester. The title compound, ESI MS (m/z): 395 (M+H+).

reactant | 2-(4-fluoro-phenyl)-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2)C2=CC=C(C=C2)F)C2=CC=CC=C2)O | C22H17FN2O3
reactant | 3-bromo-1,2-bis-(4-fluoro-phenyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)O | C22H15BrF2N2O3
product | 1,2-Bis-(4-fluoro-phenyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2)C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)O | C22H16F2N2O3
